US05658913
Preparation of 2-(2-propenylthio)pyrazine
6.57 g of 2-mercaptopyrazine prepared in Reference Example 1 was dissolved in 80 ml of dimethylformaind and 8.6 ml of triethylamine was added thereto. 6.84 ml of allyl bromide was added to the solution and the mixture was stirred at 50° C. for 2 hours. 500 ml of ice water was added to the reaction solution and the resulting mixture was extracted with diethylether and concentrated. The residues were distilled under vacuum to give 7.85 g(85%) of oily pale yellow liquid.

reactant | 2-mercaptopyrazine | 6.57 g | SC1=NC=CN=C1 | C4H4N2S
reactant | allyl bromide | 6.84 ml | C(C=C)Br | C3H5Br
solvent | triethylamine | 8.6 ml | C(C)N(CC)CC | C6H15N
product | 2-(2-propenylthio)pyrazine | 7.85 g, 85% | C(C=C)SC1=NC=CN=C1 | C7H8N2S
